US06528653B2
tert-Butyl (Z)-5,6-dihydro-5-oxo-4-[(1H-pyrrol-2-yl)methylene]-4H-thieno[2,3-b]pyrrole-2-carboxylate (150 mg, 0.47 mmol) was dissolved in dichloromethane (8 ml), cooled to 0° C., treated with trifluoroacetic acid (0.75 ml) and stirred for 2 hours warming to room temperature. The reaction mixture was evaporated to dryness and triturated with diethyl ether to give 70 mg of (Z)-5,6-dihydro-5-oxo-4-[(1H-pyrrol-2-yl)methylene]-4H-thieno[2,3-b]pyrrole-2-carboxylic acid as a red solid. MS(ES): m/e 260 [M+H].

reactant | tert-Butyl (Z)-5,6-dihydro-5-oxo-4-[(1H-pyrrol-2-yl)methylene]-4H-thieno[2,3-b]pyrrole-2-carboxylate | 0.47 mmol, 150 mg | O=C1\C(\C2=C(N1)SC(=C2)C(=O)OC(C)(C)C)=C/C=2NC=CC2 | C16H16N2O3S
reactant | trifluoroacetic acid | 0.75 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | (Z)-5,6-dihydro-5-oxo-4-[(1H-pyrrol-2-yl)methylene]-4H-thieno[2,3-b]pyrrole-2-carboxylic acid | 70 mg | O=C1\C(\C2=C(N1)SC(=C2)C(=O)O)=C/C=2NC=CC2 | C12H8N2O3S
